US08729119B2
(S)—(S)-3-Oxiranylpyrrolidine-1-carboxylic Acid t-Butyl Ester
(S)-3-(S)-1,2-Dihydroxyethyl)pyrrolidine-1-carboxylic acid t-butyl ester (230 g, 990 mmol, 1.0 eq.) was combined with MeTHF (4.9 kg, 57 mol) and cooled to 0° C. 2.0 M Sodium t-butoxide in THF (994 mL, 2.0 eq.) was added drop wise over 20 minutes. The mixture was stirred at −1° C. for 15 minutes, then cooled to −7° C. p-Tolylsulfonyl)imidazole (243 g, 1.1 mol, 1.1 eq.) was added and the resulting mixture was stirred at 0° C. for 2 hours. The reaction was quenched with cold H2O (5.7 kg, 320 mol). Hexanes (1.8 kg, 21 mol) was added and the mixture was warmed to 23° C. and stirred for about 30 minutes. The layers were allowed to settle, the phases were separated, and the reaction vessel was rinsed with MeTHF (100 mL). The organic layer (˜8 L) was removed and stored at 5° C. overnight, then filtered through Na2SO4 and concentrated at 60 torr to 30 torr with a water bath at 25° C. to yield the title compound (220 g).

reactant | pyrrolidine-1-carboxylic acid t-butyl ester | 990 mmol, 230 g, 1.0 eq. | C(C)(C)(C)OC(=O)N1CCCC1 | C9H17NO2
reactant | MeTHF | 57 mol, 4.9 kg | CC1CCCO1 | C5H10O
reactant | Sodium t-butoxide | 2.0 M | CC(C)([O-])C.[Na+]
reactant | THF | 994 mL, 2.0 eq. | C1CCOC1 | C4H8O
reactant | imidazole | 1.1 mol, 243 g, 1.1 eq. | N1C=NC=C1 | C3H4N2
reactant | H2O | 320 mol, 5.7 kg | O | H2O
product | (S)—(S)-3-Oxiranylpyrrolidine-1-carboxylic Acid t-Butyl Ester | 220 g | C(C)(C)(C)OC(=O)N1C[C@H](CC1)[C@@H]1OC1 | C11H19NO3
